US08609653B2
2-(7-fluorochroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
6-Bromo-7-fluorochroman (4.05 g, 17.53 mmol), potassium acetate (5.99 g, 61 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (6.60 g, 26 mmol) were dissolved in DMF (40 mL) and the mixture was degassed. PdCl2(dppf) (1:1 DCM complex) was added and the mixture was degassed 10 minutes. The reaction was heated to 95° C. for 5 hours, cooled to ambient temperature, diluted with ethyl acetate, and filtered through a pad of Celite™. The filtrate was extracted with ethyl acetate. The organic extract was washed with brine, dried over sodium sulfate and purified by silica-gel chromatography (0-20% ethyl acetate/hexanes gradient elution) to give the title compound as the major product in a 3:1 mixture of regioisomers as a colorless oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=7.50-7.41 (m, 1 H), 6.63-6.45 (m, 1 H), 4.20 (t, 2 H), 2.75 (t, J=6.3 Hz, 2 H), 2.04-1.96 (m, 2 H), 1.36 (s, 12 H); LCMS (m/z) ES+=279 (M+1).

reactant | 6-Bromo-7-fluorochroman | 17.53 mmol, 4.05 g | BrC=1C=C2CCCOC2=CC1F | C9H8BrFO
reactant | potassium acetate | 61 mmol, 5.99 g | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 26 mmol, 6.60 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(7-fluorochroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC1=C(C=C2CCCOC2=C1)B1OC(C(O1)(C)C)(C)C | C15H20BFO3
